US07465737B2
To a solution of 1.3 g (8.7 mmol) of (6,7-dihydro-5H-cyclopentapyrazin-6-yl)-methanol in 15 ml of anhydrous dichloromethane was added at −15° C. 1.33 ml (9.52 mmol) of triethylamine and 0.74 ml (9.52 mmol) of methanesulfonyl chloride. The resulting mixture was stirred at 0° C. for 1 h. The mixture was then diluted with water and dichloromethane and extracted with dichloromethane. Organic layer was dried and evaporated to give 1.73 g (88%) of methanesulfonic acid 6,7-dihydro-5H-cyclopentapyrazin-6-ylmethyl ester.

reactant | (6,7-dihydro-5H-cyclopentapyrazin-6-yl)-methanol | 8.7 mmol, 1.3 g | N1=CC=NC2=C1CC(C2)CO | C8H10N2O
reactant | triethylamine | 9.52 mmol, 1.33 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 9.52 mmol, 0.74 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | methanesulfonic acid 6,7-dihydro-5H-cyclopentapyrazin-6-ylmethyl ester | 1.73 g, 88% | N1=CC=NC2=C1CC(C2)COS(=O)(=O)C | C9H12N2O3S
